US07977344B2
3-(Tetrahydro-2H-pyran-3-yl)propyl methanesulfonate
To a solution of 3-(tetrahydro-2H-pyran-3-yl)-1-propanol (2.64 g) in dry dichloromethane (78 ml) at 0° C. was added triethylamine (6.21 ml) followed by mesyl chloride (1.85 ml). The reaction mixture was allowed to warm to room temperature as the ice melted and allowed to stir for three hours. The reaction mixture was washed with sodium hydrogen carbonate. The organic layer was separated, dried by passing through a hydrophobic frit and concentrated in vacuo. to give a yellow oil (4.42 g). The product was purified by silica chromatography (80 g) (ISCO) using a gradient elution of 0-50% cyclohexane:ethyl acetate to afford the title compound as a clear oil (3.79 g).

reactant | 3-(tetrahydro-2H-pyran-3-yl)-1-propanol | 2.64 g | O1CC(CCC1)CCCO | C8H16O2
reactant | triethylamine | 6.21 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 1.85 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 78 ml | ClCCl | CH2Cl2
product | 3-(Tetrahydro-2H-pyran-3-yl)propyl methanesulfonate | 4.42 g | CS(=O)(=O)OCCCC1COCCC1 | C9H18O4S
